US07273877B2
4-(2,4-Difluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid (0.15 g, 0.5 mmol) was dissolved in a mixture of anhydrous THF (20 ml) and anhydrous DMF (2 ml). CDI (0.18 g, 1.1 mmol) was added and the solution stirred at RT for 2 h. 3-Amino-1-propanol (0.16 g, 2.2 mmol) was then added and the solution stirred for a further 15 h. The solvent was removed under reduced pressure and the residue partitioned between 2% MeOH/EtOAc and water. The organic fraction was washed with water ×2, NaHCO3, brine, dried (Na2SO4) and concentrated to give crude 4-(2,4-difluoroanilino)-N-(3-hydroxypropyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide. Further purification by flash chromatography on silica gel (5% MeOH/CH2Cl2) afforded 4-(2,4-difluoroanilino)-N-(3-hydroxypropyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (0.12 g, 68%) as a cream solid; m.p. (EtOAc/Hexane) 129-132° C. 1H NMR [400 MHz, (CD3)2SO] δ 9.84 (br s, 1H), 8.36 (t, J=5.4 Hz, 1H), 8.22 (s, 1H), 7.51-7.37 (m, 2H), 7.16-7.10 (m, 1H), 5.32 (d, J=1.1 Hz, 1H), 4.47 (t, J=4.9 Hz, 1H), 3.47 (dd, J=11.5, 6.2 Hz, 2H), 3.35 (s, 3H), 3.27 (dd, J=12.7, 6.8 Hz, 2H), 1.67 (p, J=6.7 Hz, 2H). LCMS (ACPI−) 336 (100%). Anal. Calcd for C16H17F2N3O3.0.25 H2O: C, 56.2; H, 5.2; N, 12.3. Found C, 56.4; H, 5.3; N, 12.5.

reactant | 4-(2,4-Difluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | 0.5 mmol, 0.15 g | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=CC(=C1)F | C13H10F2N2O3
reactant | CDI | 1.1 mmol, 0.18 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-Amino-1-propanol | 2.2 mmol, 0.16 g | NCCCO | C3H9NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(2,4-difluoroanilino)-N-(3-hydroxypropyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 0.12 g, 68% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NCCCO)C=CC(=C1)F | C16H17F2N3O3
